US09062028B2
Step D. 2-(4-(1-(4-(2,3-Dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)-2-methylpropyl 4-nitrophenyl carbonate
The title compound was prepared using a procedure analogous to 3-bromobenzyl 4-nitrophenyl carbonate except that (3-bromophenyl)methanol was replaced with 4-(2,3-dimethylphenoxy)-1-(5-(1-(1-hydroxy-2-methylpropan-2-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one. LCMS, [M+H]+=627.5.

reactant | 3-bromobenzyl 4-nitrophenyl carbonate | C(OCC1=CC(=CC=C1)Br)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C14H10BrNO5
reactant | (3-bromophenyl)methanol | BrC=1C=C(C=CC1)CO | C7H7BrO
reactant | 4-(2,3-dimethylphenoxy)-1-(5-(1-(1-hydroxy-2-methylpropan-2-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=NN(C2)C(CO)(C)C)C=CC=C1C | C28H35N3O3
product | 2-(4-(1-(4-(2,3-Dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)-2-methylpropyl 4-nitrophenyl carbonate | C(OCC(C)(C)N1N=CC(=C1)C1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C35H38N4O7
